US05763489
To a solution of 6-diphenylmethyl-3(2H)-pyridazinone (0.22 g) and potassium tert-butoxide (0.10 g) in N,N-dimethylformamide (2 ml) was added a solution of 2-(5-methoxy-1,2,3,4-tetrahydro-1-naphthyl)ethyl bromide (0.18 g) in N,N-dimethylformamide (3 ml) at room temperature. The reaction mixture was stirred for 2 hours at the same temperature and partitioned between water and ethyl acetate. The organic layer was washed with water (3 times) and brine, dried over sodium sulfate, and evaporated in vacuo. The residue was chromatographed (n-hexane-ethyl acetate) over silica gel to afford 2-[2-(5-methoxy-1,2,3,4-tetrahydro-1-naphthyl)ethyl]-6-diphenylmethyl-3(2H)-pyridazinone (0.25 g) as an oil.

reactant | 6-diphenylmethyl-3(2H)-pyridazinone | 0.22 g | C1(=CC=CC=C1)C(C=1C=CC(NN1)=O)C1=CC=CC=C1 | C17H14N2O
reactant | potassium tert-butoxide | 0.10 g | CC(C)([O-])C.[K+]
reactant | 2-(5-methoxy-1,2,3,4-tetrahydro-1-naphthyl)ethyl bromide | 0.18 g | COC1=C2CCCC(C2=CC=C1)CCBr | C13H17BrO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-[2-(5-methoxy-1,2,3,4-tetrahydro-1-naphthyl)ethyl]-6-diphenylmethyl-3(2H)-pyridazinone | 0.25 g | COC1=C2CCCC(C2=CC=C1)CCN1N=C(C=CC1=O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C30H30N2O2
